US04938790
Preparation of 2,2-Bis(2-hydroxyphenyl)propane.
Sodium hydride (2.60 g of 60 percent dispersion in oil) was placed in a 1 1 flask and extracted twice with pentane. To this was added first 250 ml of dimethylformamide and then, dropwise with stirring over 1 hour, 6.0 ml of ethanethiol in 40 ml of dimethylformamide. 2,2-Bis(2-methoxyphenyl)propane (8.0 g, 31 mmol) in 100 ml of dimethylformamide was then added and the mixture was heated at reflux with stirring for 24 hours and allowed to stand at ambient temperature for another approximately 18 hours. One 1 of ether was added and the resulting solution was extracted with water and twice with 4.0N sodium hydroxide solution. The combined aqueous extracts were neutralized with concentrated hydrochloric acid to a pH of about 9-10. Ether (500 ml) was then added and, after shaking, the ether layer was separated, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain about 3 g of the title compound as a brown oil containing some dimethylformamide. The proton NMR spectrum was consistent with the assigned structure.

reactant | Sodium hydride | 2.60 g | [H-].[Na+]
reactant | 2,2-Bis(2-methoxyphenyl)propane | 31 mmol, 8.0 g | COC1=C(C=CC=C1)C(C)(C)C1=C(C=CC=C1)OC | C17H20O2
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2,2-Bis(2-hydroxyphenyl)propane | about 3 g | OC1=C(C=CC=C1)C(C)(C)C1=C(C=CC=C1)O | C15H16O2
